US07700786B2
Hydrazine monohydrate (6.7 g, 210 mmol) was added to a solution of dimethyl acetylenedicarboxylate (24.7 g, 175 mmol) in toluene (90 ml) at 0° C., and the thus-obtained mixture was gradually temperature-increased up to room temperature, stirred for 2 hours and further stirred under heating at 130° C. for 4 hours. After completion of the reaction, a precipitated solid was filtered and washed with diethyl ether, to give a white solid of methyl 3-hydroxypyrazole-5-carboxylate (18.2 g, yield: 73.8%). mp: 229-231° C.; 1H-NMR (DMSO-d6, DMSO, ppm): δ 3.79 (s, 3H), 5.91 (s, 1H), 10.10-10.45 (br s, 1H). (Hydroxy proton was not assigned.)

reactant | Hydrazine monohydrate | 210 mmol, 6.7 g | O.NN
reactant | dimethyl acetylenedicarboxylate | 175 mmol, 24.7 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-hydroxypyrazole-5-carboxylate | 18.2 g, yield: 73.8% | OC1=NNC(=C1)C(=O)OC | C5H6N2O3
